US06911467B2
(2S)-1-(N′-(1″-Acetoxyethoxycarbonyl)-O′-tert-butylserinyl)-pyrrolidine-2-carbonitrile
A solution of (2S)-1-(O′-tert-butylserinyl)pyrrolidine-2-carbonitrile hydrochloride (30 mg, 0.11 mmol; prepared according to Jenkins et al., WO95/15309), α-acetoxyethyl p-nitrophenyl carbonate (32 mg, 0.12 mmol; prepared according to Alexander et al., J. Med. Chem. 31, 318, 1988) and triethylamine (20 mg, 0.20 mmol) in dichloromethane (25 ml) was stirred at room temperature for 18 hours. After this time the solvent was removed in vacuo and the residue was taken up in ethyl acetate (70 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (eluant EtOAc:Pet. Ether 60-80° C.; 4:6) yielding a white solid identified as the title compound (14 mg, 0.038 mmol, 35%).

reactant | (2S)-1-(O′-tert-butylserinyl)pyrrolidine-2-carbonitrile hydrochloride | 0.11 mmol, 30 mg | Cl.C(C)(C)(C)OC[C@H](N)C(=O)N1[C@@H](CCC1)C#N
reactant | α-acetoxyethyl p-nitrophenyl carbonate | 0.12 mmol, 32 mg | C(OC(C)OC(C)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
reactant | triethylamine | 0.20 mmol, 20 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (2S)-1-(N′-(1″-Acetoxyethoxycarbonyl)-O′-tert-butylserinyl)-pyrrolidine-2-carbonitrile | 0.038 mmol, 14 mg, 35% | C(C)(=O)OC(C)OC(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@@H](CCC1)C#N | C17H27N3O6
